* 
* ******************************************************************************
* *                                                                            *
* *                   Copyright (C) 2004-2010, Nangate Inc.                    *
* *                           All rights reserved.                             *
* *                                                                            *
* * Nangate and the Nangate logo are trademarks of Nangate Inc.                *
* *                                                                            *
* * All trademarks, logos, software marks, and trade names (collectively the   *
* * "Marks") in this program are proprietary to Nangate or other respective    *
* * owners that have granted Nangate the right and license to use such Marks.  *
* * You are not permitted to use the Marks without the prior written consent   *
* * of Nangate or such third party that may own the Marks.                     *
* *                                                                            *
* * This file has been provided pursuant to a License Agreement containing     *
* * restrictions on its use. This file contains valuable trade secrets and     *
* * proprietary information of Nangate Inc., and is protected by U.S. and      *
* * international laws and/or treaties.                                        *
* *                                                                            *
* * The copyright notice(s) in this file does not indicate actual or intended  *
* * publication of this file.                                                  *
* *                                                                            *
* *         buildcell, v2010.08-HR32-SP3-2010-08-05 - build 1009061800         *
* *                                                                            *
* ******************************************************************************
* 
* 
* Running on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr).
* Local time is now Fri, 3 Dec 2010, 18:59:42.
* Main process id is 28034.
*
********************************************************************************
*                                                                              *
* Cellname:   DFF_X2.                                                          *
*                                                                              *
* Technology: NCSU FreePDK 45nm.                                               *
* Format:     Cdl.                                                             *
*                                                                              *
* Written on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr)     *
* at 18:59:42 on Fri, 3 Dec 2010.                                              *
*                                                                              *
********************************************************************************
.SUBCKT DFF_X2 CK Q D VDD VSS 
*.PININFO D:I CK:I Q:O VDD:P VSS:G 
M_MN2 ci cni VSS VSS NMOS_VTL W=0.210000U L=0.050000U
M_MN6 VSS z4 z6 VSS NMOS_VTL W=0.090000U L=0.050000U
M_MN7 z3 ci z6 VSS NMOS_VTL W=0.090000U L=0.050000U
M_MN4 z2 cni z3 VSS NMOS_VTL W=0.275000U L=0.050000U
M_MN3 z2 D VSS VSS NMOS_VTL W=0.275000U L=0.050000U
M_MN5 z4 z3 VSS VSS NMOS_VTL W=0.210000U L=0.050000U
M_MN1 VSS CK cni VSS NMOS_VTL W=0.210000U L=0.050000U
M_MN8 z12 z3 VSS VSS NMOS_VTL W=0.210000U L=0.050000U
M_MN9 z9 ci z12 VSS NMOS_VTL W=0.210000U L=0.050000U
M_MN12 z9 cni z8 VSS NMOS_VTL W=0.090000U L=0.050000U
M_MN11 z8 z10 VSS VSS NMOS_VTL W=0.090000U L=0.050000U
M_MN10 VSS z9 z10 VSS NMOS_VTL W=0.415000U L=0.050000U
M_MN14_8 QN z9 VSS VSS NMOS_VTL W=0.415000U L=0.050000U
M_MN14 QN z9 VSS VSS NMOS_VTL W=0.415000U L=0.050000U
M_MN13 VSS z10 Q VSS NMOS_VTL W=0.415000U L=0.050000U
M_MN13_38 VSS z10 Q VSS NMOS_VTL W=0.415000U L=0.050000U
M_MP2 ci cni VDD VDD PMOS_VTL W=0.315000U L=0.050000U
M_MP6 VDD z4 z1 VDD PMOS_VTL W=0.090000U L=0.050000U
M_MP7 z1 cni z3 VDD PMOS_VTL W=0.090000U L=0.050000U
M_MP4 z3 ci z5 VDD PMOS_VTL W=0.420000U L=0.050000U
M_MP3 z5 D VDD VDD PMOS_VTL W=0.420000U L=0.050000U
M_MP5 z4 z3 VDD VDD PMOS_VTL W=0.315000U L=0.050000U
M_MP1 VDD CK cni VDD PMOS_VTL W=0.315000U L=0.050000U
M_MP8 z7 z3 VDD VDD PMOS_VTL W=0.315000U L=0.050000U
M_MP9 z9 cni z7 VDD PMOS_VTL W=0.315000U L=0.050000U
M_MP12 z9 ci z11 VDD PMOS_VTL W=0.090000U L=0.050000U
M_MP11 z11 z10 VDD VDD PMOS_VTL W=0.090000U L=0.050000U
M_MP10 VDD z9 z10 VDD PMOS_VTL W=0.630000U L=0.050000U
M_MP14_5 QN z9 VDD VDD PMOS_VTL W=0.630000U L=0.050000U
M_MP14 QN z9 VDD VDD PMOS_VTL W=0.630000U L=0.050000U
M_MP13 VDD z10 Q VDD PMOS_VTL W=0.630000U L=0.050000U
M_MP13_26 VDD z10 Q VDD PMOS_VTL W=0.630000U L=0.050000U
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
